US07091357B2
To a stirred solution of (S)-nicotine (0.31 g, 1.9 mmol) in AcOH (8 ml) was added (6-bromo-hexyl)-cyclohexane (1.15 g, 4.65 mmol). The mixture was heated at reflux for 3 days. AcOH was evaporated and the residue was recrystallized in ethyl acetate-CHCl3 to afford (S)-1-(6-cyclohexyl-hexyl)-3-(1-methyl-pyrrolidin-2-yl)-pyridinium bromide hydrobromide salt (NCyNB-6) (0.59 g, 63%) as hygroscopic white crystals: 1H NMR (300 MHz, CDCl3) δ 11.71 (1H, s), 10.44 (1H, s), 9.58 (1H, d, J=8.1 Hz), 9.04 (1H, d, J=6.0 Hz), 8.29 (1H, dd, J=7.8, 6.0 Hz), 5.75 (1H, m), 4.78 (2H, m), 4.02 (1H, m), 3.37 (1H, m), 2.98 (3H, d, J=4.8 Hz), 2.75 (1H, m), 2.48 (3H, m), 2.13 (2H, m), 1.65 (5H, m), 1.05–1.45 (12H, m), 0.83 (2H, m), 13C NMR (75 MHz, CDCl3) δ 147.66, 146.65, 144.57, 134.85, 128.93, 67.09, 63.11, 56.09, 38.71, 37.77, 37.52, 33.61, 32.09, 31.80, 29.53, 26.92, 26.84, 26.63, 26.54, 21.89; Anal. Calcd for C22H38Br2N2.0.3H2O: C, 53.30; H, 7.85; N, 5.65. Found: C, 53.35; H, 7.74; N, 5.70.

reactant | (S)-nicotine | 1.9 mmol, 0.31 g | N1=CC=CC(=C1)[C@H]1N(C)CCC1 | C10H14N2
reactant | (6-bromo-hexyl)-cyclohexane | 4.65 mmol, 1.15 g | BrCCCCCCC1CCCCC1 | C12H23Br
solvent | AcOH | 8 ml | CC(=O)O | C2H4O2
product | (S)-1-(6-cyclohexyl-hexyl)-3-(1-methyl-pyrrolidin-2-yl)-pyridinium bromide hydrobromide salt | 0.59 g, 63% | Br.[Br-].C1(CCCCC1)CCCCCC[N+]1=CC(=CC=C1)[C@H]1N(CCC1)C | InChI=1S/C22H37N2.2BrH/c1-23-16-10-15-22(23)21-14-9-18-24(19-21)17-8-3-2-5-11-20-12-6-4-7-13-20;;/h9,14,18-20,22H,2-8,10-13,15-17H2,1H3;2*1H/q+1;;/p-1/t22-;;/m0../s1
